US05616620
a) (R)-N5 -[Amino(nitroimino)methyl]-N-[(4-hydroxyphenyl)methyl]-N2 -(1-oxo-2-propylpentyl)-ornithinamide
Prepared analogously to Example 5d), but using tetrahydrofuran instead of acetonitrile, from (R)-N5 -[amino(nitroimino)methyl]-N-[(4-hydroxyphenyl)methyl]-ornithinamide, 2-propyl-pentanoic acid and TBTU in a yield of 65% of theory. Colourless crystalline substance which was further processed without purification.

reactant | (R)-N5 -[amino(nitroimino)methyl]-N-[(4-hydroxyphenyl)methyl]-ornithinamide | NC(NCCC[C@@H](N)C(=O)NCC1=CC=C(C=C1)O)=N[N+](=O)[O-] | C13H20N6O4
reactant | 2-propyl-pentanoic acid | C(CC)C(C(=O)O)CCC | C8H16O2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (R)-N5 -[Amino(nitroimino)methyl]-N-[(4-hydroxyphenyl)methyl]-N2 -(1-oxo-2-propylpentyl)-ornithinamide | yield of 65% | NC(NCCC[C@@H](NC(C(CCC)CCC)=O)C(=O)NCC1=CC=C(C=C1)O)=N[N+](=O)[O-] | C21H34N6O5
